US04650907
(E)-Ethyl 2-Isobutyl-3-fluoroacrylate
A solution of ethyl 2-(tert-butoxycarbonyl)-2-(difluoromethyl)-4-methylvalerate (35.68 g) in trifluoroacetic acid (243 ml) is stirred for 1 hour, then the excess trifluoroacetic acid is removed by evaporation. The residual oil (30.89 g) is dissolved in THF (400 ml) and treated slowly with M NaOH (121 ml) so that the pH does not rise above 7.02. After completion of the addition the solution is stirred for another 15 minutes and the product is extracted into ether. Careful distillation at atmospheric pressure, then at 24mm allows the separation of essentially pure acrylate as a colorless oil (5.72 g), bp 70°-72° C.

reactant | ethyl 2-(tert-butoxycarbonyl)-2-(difluoromethyl)-4-methylvalerate | 35.68 g | C(C)(C)(C)OC(=O)C(C(=O)OCC)(CC(C)C)C(F)F | C14H24F2O4
solvent | trifluoroacetic acid | 243 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (E)-Ethyl 2-Isobutyl-3-fluoroacrylate | C(C(C)C)/C(/C(=O)OCC)=C\F | C9H15FO2
